US07645771B2
Preparation of N-[1-(4-(3-Fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidine-1-carbonyl)-propyl]-2,2-dimethyl-propionamide
N-[1-(4-(3-Fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidine-1-carbonyl)-propyl]-2,2-dimethyl-propionamide was obtained from treating[1-(4-(3-Fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidine-1-carbonyl)-propyl]-carbamic acid tert-butyl ester (0.580 g, 0.92 mmol) with HCl as outlined in the procedure for example 890 to form 2-Amino-1-(4-(3-fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidin-1-yl)-butan-1-one (0.488 g, 99%). 2-Amino-1-(4-(3-fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidin-1-yl)-butan-1-one (0.049 g, 0.09 mmol, 2,2-Dimethyl-propionyl chloride (0.011 g, 0.09 mmol) and DIEA (0.034 g, 0.534 mmol) were reacted following the procedure outlined in example 890 to give the title compound, N-[1-(4-(3-Fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidine-1-carbonyl)-propyl]-2,2-dimethyl-propionamide (0.030 g, 54%) as an oil. ES-LCMS m/z 616 (M+1).

reactant | 2-Amino-1-(4-(3-fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidin-1-yl)-butan-1-one | NC(C(=O)N1CCC(CC1)(CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F)CC | C32H42FN5O
reactant | 2,2-Dimethyl-propionyl chloride | 0.09 mmol, 0.011 g | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | DIEA | 0.534 mmol, 0.034 g | CCN(C(C)C)C(C)C | C8H19N
product | N-[1-(4-(3-Fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidine-1-carbonyl)-propyl]-2,2-dimethyl-propionamide | 0.030 g, 54% | FC=1C=C(C=CC1)C1(CCN(CC1)C(=O)C(CC)NC(C(C)(C)C)=O)CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C | C37H50FN5O2
